US04766121
2-Methoxy-5-(2-methoxy-5-(2,6-dimethyl-4-formylphenoxy)benzyl)-pyridine (10.84 g), N-acetylglycine (5.38 g), sodium acetate (3.77 g) and acetic anhydride (70 ml) were stirred at 100±5°, (oil bath temperature) for 24 hours. The solution was cooled and evaporated to leave a brown gum which was triturated with water, then with methanol to afford 2-methyl-4-(3,5-dimethyl-4-(4-methoxy-3-(6-methoxy-3-pyridylmethyl)-phenoxy)-benzal)-5-oxazolone as a yellow solid (8.27 g, 64%), m.p. 164°-165°.

reactant | 2-Methoxy-5-(2-methoxy-5-(2,6-dimethyl-4-formylphenoxy)benzyl)-pyridine | 10.84 g | COC1=NC=C(C=C1)CC1=C(C=CC(=C1)OC1=C(C=C(C=C1C)C=O)C)OC | C23H23NO4
reactant | N-acetylglycine | 5.38 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 3.77 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-4-(3,5-dimethyl-4-(4-methoxy-3-(6-methoxy-3-pyridylmethyl)-phenoxy)-benzal)-5-oxazolone | 8.27 g, 64% | CC=1OC(C(N1)=CC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)OC)CC=1C=NC(=CC1)OC)C)=O | C27H26N2O5
